US07071175B1
To a solution of 2-bromomethyl-acrylic acid ethyl ester (1.93 g, 10 mmol) in N,N-dimethylformamide (25 mL) was added piperazine-1-carboxylic acid tert-butyl ester (1.86 g, 10 mmol) and then, dropwise, ethyl-diisopropyl-amine (1.71 mL, 10 mmol). After stirring for 16 h at room temperature the solvent was removed under reduced pressure and water (50 mL) and dichloromethane (50 mL) were added. After stirring for 2 min the layers were separated, the organic was washed with water and brine, and dried over magnesium sulphate. The solvent was removed under reduced pressure to give crude 4-(2-ethoxycarbonyl-allyl)-piperazine-1-carboxylic acid tert-butyl ester (2.456 g, 82%).

reactant | 2-bromomethyl-acrylic acid ethyl ester | 10 mmol, 1.93 g | C(C)OC(C(=C)CBr)=O | C6H9BrO2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 10 mmol, 1.86 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | ethyl-diisopropyl-amine | 10 mmol, 1.71 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 4-(2-ethoxycarbonyl-allyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.456 g, 82% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(=C)C(=O)OCC | C15H26N2O4
